US07407961B2
A mixture of 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg), sodium methoxide (70 mg), CuI (5 mg) in NMP (1.0 ml) was heated at 100° C. for 2.5 hours. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was recrystallized from MeOH-IPE to give 5-(5-amino-6-methoxy-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (58 mg).

reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | sodium methoxide | 70 mg | C[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
catalyst | CuI | 5 mg | [Cu]I
product | 5-(5-amino-6-methoxy-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 58 mg | NC=1N=C(C(=NC1OC)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C19H20N4O2
